US07763657B2
Step 4: (4-Methanesulfonylamino-2-methoxy-5-vinyl-benzyl)-carbamic acid tert-butyl ester
To a ice-cooled solution of (4-amino-2-methoxy-5-vinyl-benzyl)-carbamic acid tert-butyl ester (220 mg, 0.79 mmol) in methylene chloride was added triethylamine (132 L) followed by methanesulfonyl chloride (72 L). The mixture was warmed up to room temperature and stirred for 4 hrs. The reaction was quenched with water, and the reaction solution was extracted with methylenechloride, washed with water and brine, dried over anhyd. MgSO4, filtered and concentrated under reduced pressure. The resulting residue was treated with 1N NaOH/MeOH/THF (1/2/1) for 2 hrs, and then neutralized by adding 1N HCl. After evaporating methanol, water was added to the residue. The resulting mixture was extracted with EtOAc, and the combined organic layer was washed with brine, dried over anhyd. MgSO4, filtered, and concentrated under reduced pressure. The crude residue was column-chromatographed (hexane/ethylacetate=1/1) to yield a white solid (260 mg, 92%).

reactant | (4-amino-2-methoxy-5-vinyl-benzyl)-carbamic acid tert-butyl ester | 0.79 mmol, 220 mg | C(C)(C)(C)OC(NCC1=C(C=C(C(=C1)C=C)N)OC)=O | C15H22N2O3
reactant | triethylamine | 132 L | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 72 L | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (4-Methanesulfonylamino-2-methoxy-5-vinyl-benzyl)-carbamic acid tert-butyl ester | 260 mg, 92% | C(C)(C)(C)OC(NCC1=C(C=C(C(=C1)C=C)NS(=O)(=O)C)OC)=O | C16H24N2O5S
